US04970148
The washed cells described above were added to 0.05M Tris-HCl buffer (pH 7.2) containing 1 g/dl of 2',3'-dideoxyadenosine in a concentration of 5 g/dl followed by reacting at 30° C. for 2 hours. The amount of 2',3'-dideoxyinosine produced at this stage is shown in Table 2.

reactant | Tris-HCl | 0.05M, pH 7.2 | C(C(CO)(CO)N)O.Cl
reactant | 2',3'-dideoxyadenosine | [C@@H]1(CC[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O2
product | 2',3'-dideoxyinosine | [C@@H]1(CC[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O3
